US07704996B2
Step 58.1: 5-Fluoro-2-nitrobiphenyl
To a solution of trifluoromethanesulfonic acid 5-fluoro-2-nitrophenyl ester (4.0 mmol) in DME (10 mL) are added phenylboronic acid (4.8 mmol), Pd(PPh3)4 (0.4 mmol), and K3PO4 (3.2 mmol) at room temperature. After stirring at 80° C. for 6 h, the reaction mixture is filtered through celite, and the filter cake is washed with AcOEt. The filtrate is diluted with water and extracted with ether (×2). The combined organic extracts are dried over Na2SO4, filtered, and concentrated in vacuo. The residue is purified by silica gel column chromatography (n-hexane:AcOEt=6:1) to give the title compound; 1H NMR (CDCl3), δ 7.12-7.19 (2H, m), 7.29-7.32 (2H, m), 7.42-7.45 (3H, t), 7.94 (1H, dd).

reactant | trifluoromethanesulfonic acid 5-fluoro-2-nitrophenyl ester | 4.0 mmol | FC=1C=CC(=C(C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO5S
reactant | phenylboronic acid | 4.8 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 3.2 mmol | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.4 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Fluoro-2-nitrobiphenyl | FC=1C=CC(=C(C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8FNO2
